US07718652B2
In an analogous manner to Example 11 step 5, 3-(2-bromoethyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.96 g, 0.25 mmol) was reacted with cyclopropylamine and then treated with HCl to afford N-{2-[1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]ethyl}cyclopropanamine as a white solid:

reactant | 3-(2-bromoethyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.25 mmol, 0.96 g | BrCCN1S(N(C2=C(C1)C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C15H14BrFN2O2S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | HCl | Cl | ClH
product | N-{2-[1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]ethyl}cyclopropanamine | FC1=C(C=CC=C1)N1S(N(CC2=C1C=CC=C2)CCNC2CC2)(=O)=O | C18H20FN3O2S
